US08604029B2
To a mixture of acetyl acetone (4.0 g, 40.0 mmol) and urea (2.0 g, 33.3 mmol) in ethanol (40 mL) was added concentrated HCl (10 mL) and stirred at reflux for 3 h. The reaction mixture was cooled to 0° C. and filtered; the colourless solid was washed thoroughly with ice cold ethanol then ether and dried under vacuum to afford 4,6-dimethyl-1H-pyrimidin-2-one hydrochloride (3.5 g, 55%) as a solid.

reactant | acetyl acetone | 40.0 mmol, 4.0 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | urea | 33.3 mmol, 2.0 g | NC(=O)N | CH4N2O
reactant | HCl | 10 mL | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 4,6-dimethyl-1H-pyrimidin-2-one hydrochloride | 3.5 g, 55% | Cl.CC1=NC(NC(=C1)C)=O | InChI=1S/C6H8N2O.ClH/c1-4-3-5(2)8-6(9)7-4;/h3H,1-2H3,(H,7,8,9);1H
